US05554615
t-Butyl p-formylbenzoate (20 g, 97 mmol) was dissolved in ether (300 ml), followed by the dropwise addition of ethylmagnesium bromide (3M ethereal solution, 33 ml) under cooling with ice. The obtained mixture was stirred to complete a reaction. The reaction mixture was poured into a saturated aqueous solution of ammonium chloride and the obtained mixture was extracted with ether. The organic phase was distilled to remove the solvent and the obtained residue was subjected to silica gel column chromatography and eluted with a solvent (ethyl acetate/hexane=1:4) to give 22.3 g of t-butyl 4-(1-hydroxypropyl)benzoate. This product was dissolved in petroleum ether (500 ml), followed by the addition of active manganese dioxide (165 g). The obtained mixture was heated under reflux for 30 hours to complete a reaction. The reaction mixture was filtered and the filtrate was concentrated to give 21.1 g of t-butyl 4-propionylbenzoate.

reactant | t-Butyl p-formylbenzoate | 97 mmol, 20 g | C(=O)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H14O3
reactant | ethylmagnesium bromide | 3M, 33 ml | C(C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 300 ml | CCOCC | C4H10O
product | t-butyl 4-(1-hydroxypropyl)benzoate | 22.3 g | OC(CC)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C14H20O3
